US07049444B2
6-(3-Aminophenyl)-3-benzyl-6-methyl-3-azabicyclo[3.1.0]hexan-2-one
To a solution of 3-benzyl-6-methyl-6-(3-nitrophenyl)-3-azabicyclo[3.1.0]hexan-2-one (Preparation 28, 2 g, 6.2 mmol) in absolute ethanol (170 ml) was added water (30 ml), calcium chloride (344 mg, 3.1 mmol) and iron powder (3.02 g, 53.8 mmol). The mixture was heated to reflux under nitrogen for 4 h, then cooled. The solution was filtered through silica (10 g) eluting with methanol, then concentrated in vacuo to give the title compound as a white solid (1.73 g, 95%).

reactant | 3-benzyl-6-methyl-6-(3-nitrophenyl)-3-azabicyclo[3.1.0]hexan-2-one | 6.2 mmol, 2 g | C(C1=CC=CC=C1)N1C(C2C(C2C1)(C1=CC(=CC=C1)[N+](=O)[O-])C)=O | C19H18N2O3
reactant | water | 30 ml | O | H2O
reactant | calcium chloride | 3.1 mmol, 344 mg | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 170 ml | C(C)O | C2H6O
catalyst | iron | 53.8 mmol, 3.02 g | [Fe] | Fe
product | 6-(3-Aminophenyl)-3-benzyl-6-methyl-3-azabicyclo[3.1.0]hexan-2-one | 1.73 g, 95% | NC=1C=C(C=CC1)C1(C2CN(C(C12)=O)CC1=CC=CC=C1)C | C19H20N2O
